datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.CC[O:10][H] 21=20;20,10=10"
"[OH:10]C(C)C(C)C(O)C([H])[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C([H])C(O)C(C)C(C)[OH+:10]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([K])C(CCC)C(O)C1C>>[O:10]([K])C(CCC)C(O)C([C:20](OC)=[O:21])C 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)C>>CC1C(C(O[C:20](=[O:10])N1[H])CC)C.[O-:21]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[OH:10]C(CCC)C(C)C(O)C(O)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(O)C(O)C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CC)[H])CC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CC)C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[S]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(CC)[S][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C)C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(O)C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(C)C(O)C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([S]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](CC)[S]1 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C)([NH][H])[O][H].[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[OH:10]C([H])/C([H])=C([C:20](C)=[OH+:21])/C>>[OH:21][C:20]1(C)[OH+:10]C([H])C([H])=C1C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CCCCCC)CCCCCC)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CCCCCC)CCCCCC)[H] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)CCCCCC)[H]>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)[H] 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(CC)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C([H])[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C([H])[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
